US09062070B2
Step E: tert-butyl 3-[(2,2-dimethylpropanoyl)amino]-6,7-dihydro-5H-cyclopenta[c]pyridine-7-carboxylate
A solution of tert-butyl {4-(2-bromoethyl)-6-[(2,2-dimethylpropanoyl)amino]pyridin-3-yl}acetate (6.5 g, 16.3 mmol) in tetrahydrofuran (50 mL) cooled in a dry ice-acetone bath was treated with a solution of lithium diisopropylamide in tetrahydrofuran (50 mL) (prepared from diisopropylamine (3.79 g, 34.7 mmol) and n-butyllithium (2.5 M, 13.7 mL) dropwise via addition funnel over 1 h. After complete addition, the reaction stirred an additional 1 h, then was quenched with saturated sodium bicarbonate solution and allowed to warm to room temperature. The resulting mixture was diluted with ethyl acetate and water and transferred to a separatory funnel. The layers were separated and the aqueous extracted with ethyl acetate (2×). The combined organics were washed with brine, dried (Na2SO4), filtered and concentrated. Purification of the resulting residue (2->25% EtOAc/hexanes eluent) provided the title compound. LC/MS (M+1)+=319.0.

reactant | tert-butyl {4-(2-bromoethyl)-6-[(2,2-dimethylpropanoyl)amino]pyridin-3-yl}acetate | 16.3 mmol, 6.5 g | BrCCC1=C(C=NC(=C1)NC(C(C)(C)C)=O)CC(=O)OC(C)(C)C | C18H27BrN2O3
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | diisopropylamine | 34.7 mmol, 3.79 g | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 2.5 M, 13.7 mL | C(CCC)[Li]
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | tert-butyl 3-[(2,2-dimethylpropanoyl)amino]-6,7-dihydro-5H-cyclopenta[c]pyridine-7-carboxylate | CC(C(=O)NC1=CC2=C(C=N1)C(CC2)C(=O)OC(C)(C)C)(C)C | C18H26N2O3
